US09399637B2
Step 10) N2-(2,3-dimethyl-2H-indazol-6-yl)-N4-methyl-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 8-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate (657 mg, 1.3 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (10 mL, 40 mmol). The reaction mixture was stirred at rt overnight and concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with a saturated Na2CO3 aqueous solution, then extracted with DCM (250 mL×3). The combined organic phases were washed with brine (250 mL), then dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/5) to give the title compound as a beige solid (0.30 g, 56.9%).

reactant | tert-butyl 8-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 1.3 mmol, 657 mg | CN1N=C2C=C(C=CC2=C1C)NC1=NC=CC(=N1)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C28H39N7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 40 mmol, 10 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N2-(2,3-dimethyl-2H-indazol-6-yl)-N4-methyl-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine | 0.30 g, 56.9% | CN1N=C2C=C(C=CC2=C1C)NC1=NC=CC(=N1)N(C1CCC2(CCNC2)CC1)C | C23H31N7
